US05698697
Into 300 ml of tetrahydrofuran was added 54.1 g (0.9 mole) of ethylenediamine and the mixture was heated to 30° C. To the mixture was added dropwise 52.5 g (0.6 mole) of 2-chloroacrylonitrile over a period of 2 hours with stirring and further stirring was continued for 6 hours. During stirring, the temperature was kept at about 30° C. The reaction mixture formed was cooled to 20° C. and precipitates formed were removed by filtration. After adding 35% hydrochloric acid to the filtrate formed to adjust pH of the mixture to 4, precipitates formed were collected by filtration. The precipitates were dissolved in 20% hydrochloric acid and the solution thus formed was added dropwise to tetrahydrofuran. Precipitates formed were collected by filtration and the solvent attaching the precipitates was removed under reduced pressure to provide 55.2 g (yield 50%) of 2-cyanopiperazine-di-hydrochloride. The analytical values of the product were as follows.

reactant | ethylenediamine | 0.9 mole, 54.1 g | C(CN)N | C2H8N2
reactant | 2-chloroacrylonitrile | 0.6 mole, 52.5 g | ClC(C#N)=C | C3H2ClN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-cyanopiperazine-di-hydrochloride | 55.2 g, yield 50% | Cl.Cl.C(#N)C1NCCNC1 | InChI=1S/C5H9N3.2ClH/c6-3-5-4-7-1-2-8-5;;/h5,7-8H,1-2,4H2;2*1H
